US05672597
N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-[2-(ethoxycarbonylamino)ethylthio]acetamide
There was dissolved 2.5 g (0.012 mol) of 2-[2-(ethoxycarbonylamino)ethylthio]acetic acid in 60 ml of dichloromethane and added 1.85 g (0.012 mol) of HOBt and 2.5 g (0.012 mol) of DCC under cooling with ice, and the mixture was stirred for 30 minutes under cooling with ice. Thereto was added 3.0 g (0.012 mol) of 3-[3-(piperidinomethyl)phenoxy]propylamine and the mixture was stirred for 18 hours at room temperature. The precipitate was filtrated off, and the filtrate was washed with 5% aqueous solution of sodium hydroxide and with water and dried over Glauber's salt. Then the solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=5:1) to give 4.23 g of the titled compound as oily matter.

reactant | 2-[2-(ethoxycarbonylamino)ethylthio]acetic acid | 0.012 mol, 2.5 g | C(C)OC(=O)NCCSCC(=O)O | C7H13NO4S
reactant | HOBt | 0.012 mol, 1.85 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.012 mol, 2.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 3-[3-(piperidinomethyl)phenoxy]propylamine | 0.012 mol, 3.0 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-[2-(ethoxycarbonylamino)ethylthio]acetamide | 4.23 g | N1(CCCCC1)CC=1C=C(OCCCNC(CSCCNC(=O)OCC)=O)C=CC1 | C22H35N3O4S
